US07816371B2
a. (R)-2-(5-((S)-2-(4-Chlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)propanoic acid
(R)-Methyl 2-(5-((S)-2-(4-chlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)propanoate (0.23 g, 0.00050 mol) was stirred with lithium hydroxide (0.03 g, 0.001 mol) in tert-butyl alcohol (4 mL, 0.04 mol) and water (2 mL, 0.1 mol) at 0° C. for 1 hour. 1 N HCl was added until pH<7 and the reaction mixture was extracted with CH2Cl2 (40 mL×3). The organic layers were dried over MgSO4, filtered, purified via flash chromatography (12 g of silica gel, 0-50% EtOAc/Hexane) and gave a light yellow solid. 1H NMR δ (CDCl3) δ: 8.05-8.01 (m, 1H), 7.89-7.62 (m, 2H), 7.38-7.29 (m, 5H), 6.89-6.80 (m, 1H), 6.04-5.94 (m, 1H), 5348-5.39 (m, 1H), 3.86 (d, J=6.6 Hz, 1H), 3.03-2.88 (m, 6H). MS m/z 399.0 (M+H)+.

reactant | (R)-Methyl 2-(5-((S)-2-(4-chlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)propanoate | 0.00050 mol, 0.23 g | ClC1=CC=C(C=C1)[C@@H](C(=O)NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)OC)C)C | C22H21ClN2O4
reactant | lithium hydroxide | 0.001 mol, 0.03 g | [OH-].[Li+]
reactant | tert-butyl alcohol | 0.04 mol, 4 mL | C(C)(C)(C)O | C4H10O
reactant | water | 0.1 mol, 2 mL | O | H2O
reactant | HCl | 1 N | Cl | ClH
product | (R)-2-(5-((S)-2-(4-Chlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)propanoic acid | ClC1=CC=C(C=C1)[C@@H](C(=O)NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)O)C)C | C21H19ClN2O4
